US04452792
Preparation of O-Ethyl O-Acridin-2-yl S-Propyl Phosphorothioate
2-Hydroxyacridine (1.90 grams; 0.01 mole), triethylamine (1.01 grams; 0.01 mole), tetrahydrofuran (30 ml) and toluene (20 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture was cooled to about 0° C. and O-ethyl S-propyl phosphorochloridothioate (2.01 grams; 0.01 mole) dissolved in toluene (23 ml) was added with stirring over a period of about 20 minutes. After the addition was completed stirring was continued for 3 hours allowing the mixture to warm up to room temperature. Stirring was continued overnight. After this time the reaction mixture was filtered to remove triethylamine hydrochloride. The filtrate was washed, treated with charcoal and stripped of solvent leaving yellow/green oil as the residue. This residue was subjected to flash chromatography using ethyl acetate as the eluant to yield the desired product O-ethyl O-acridin-2-yl S-propyl phosphorothioate as a yellow brown oil.

reactant | 2-Hydroxyacridine | 0.01 mole, 1.90 grams | OC1=CC2=CC3=CC=CC=C3N=C2C=C1 | C13H9NO
reactant | triethylamine | 0.01 mole, 1.01 grams | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | O-ethyl S-propyl phosphorochloridothioate | 0.01 mole, 2.01 grams | P(OCC)(SCCC)(Cl)=O | C5H12ClO2PS
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | O-ethyl O-acridin-2-yl S-propyl phosphorothioate | P(OCC)(OC1=CC2=CC3=CC=CC=C3N=C2C=C1)(SCCC)=O | C18H20NO3PS
